US06005116
(a) 2-(4-Chlorobenzoyl)isovaleric acid ethyl ester
4-Chlorobenzoyl chloride (2.5 ml) and isovaleric acid ethyl ester (1.5 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 8(a) to obtain the title compound (2.2 g, 82%) as a colorless oil.

reactant | 4-Chlorobenzoyl chloride | 2.5 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | isovaleric acid ethyl ester | 1.5 ml | C(C)OC(CC(C)C)=O | C7H14O2
product | 2-(4-Chlorobenzoyl)isovaleric acid ethyl ester | 2.2 g, 82% | C(C)OC(C(C(C)C)C(C1=CC=C(C=C1)Cl)=O)=O | C14H17ClO3
